US07834063B2
C. N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-(2-methylpropyl)-N1-phenylglycinamide
Synthesized as described for Example 91C using N-[4-cyano-3-(trifluoromethyl)phenyl]-N-isobutylglycine and aniline: MS (APCI) m/z 376 (M+1).

reactant | N-[4-cyano-3-(trifluoromethyl)phenyl]-N-isobutylglycine | C(#N)C1=C(C=C(C=C1)N(CC(=O)O)CC(C)C)C(F)(F)F | C14H15F3N2O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-(2-methylpropyl)-N1-phenylglycinamide | C(#N)C1=C(C=C(C=C1)N(CC(=O)NC1=CC=CC=C1)CC(C)C)C(F)(F)F | C20H20F3N3O
